US04985582
Diethyl 2-benzylthiomethyl-2-isobutylmalonate (32.0 g.) in dry diethyl ether (60 ml.) was added to a stirred suspension of lithium aluminium hydride (7.0 g.) in dry diethyl ether (400 ml.), at 0°, under nitrogen. The mixture was stirred at room temperature for three hours and then refluxed with stirring for a further three hours. The mixture was cooled and 10% aqueous sodium hydroxide solution (25 ml.) was added very carefully. The mixture was filtered and the solid was washed with ether. The filtrates were dried over anhydrous magnesium sulphate and evaporated in vacuo. 2-Benzylthiomethyl-2-isobutyl-propan-1,3-diol was obtained as a colourless solid (20 g.) and was used without further purification.

reactant | Diethyl 2-benzylthiomethyl-2-isobutylmalonate | 32.0 g | C(C1=CC=CC=C1)SCC(C(=O)OCC)(C(=O)OCC)CC(C)C | C19H28O4S
reactant | lithium aluminium hydride | 7.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 2-Benzylthiomethyl-2-isobutyl-propan-1,3-diol | C(C1=CC=CC=C1)SCC(CO)(CO)CC(C)C | C15H24O2S
